US05003103
Example 1 Preparation of 3,4-difluorobenzoic acid
4,5-difluorophthalic anhydride (0.5 grams, 2.7 mmole) was added to a slurry of cupric oxide (5% by weight of starting material) in 5 ml. of N-methyl-2-pyrrolidone. n-tridecane (0.25 grams) was added as an internal standard. The mixture was heated to 190° C. for 3 hours, at which time GC analysis indicated complete consumption of the starting material and conversion to 3,4-difluorobenzoic acid in an 85% yield, based upon the internal standard, corrected for response factors.

reactant | 4,5-difluorophthalic anhydride | 2.7 mmole, 0.5 grams | FC=1C=C2C(C(=O)OC2=O)=CC1F | C8H2F2O3
reactant | n-tridecane | 0.25 grams | CCCCCCCCCCCCC | C13H28
solvent | N-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 3,4-difluorobenzoic acid | 85% yield | FC=1C=C(C(=O)O)C=CC1F | C7H4F2O2
